US07166599B2
b) 3-[2-(tert.butyloxycarbonylamino)ethoxy]-aniline
Prepared from 3-[2-(tert.butyloxycarbonylamino)ethoxy]-nitrobenzene by hydrogenation in methanol at ambient temperature in the presence of platinum/charcoal, Rf value: 0.42 (silica gel; petroleum ether/ethyl acetate=1:1)

reactant | 3-[2-(tert.butyloxycarbonylamino)ethoxy]-nitrobenzene | C(C)(C)(C)OC(=O)NCCOC=1C=C(C=CC1)[N+](=O)[O-] | C13H18N2O5
solvent | methanol | CO | CH4O
catalyst | platinum/charcoal | [Pt] | Pt
product | 3-[2-(tert.butyloxycarbonylamino)ethoxy]-aniline | C(C)(C)(C)OC(=O)NCCOC=1C=C(N)C=CC1 | C13H20N2O3
